US07977370B2
1-butyl-N,N-dimethyl-4,4-bis(3-(2-(pyridin-4-yl)ethyl)-1H-indol-2-yl)cyclohexanamine
3-(2-pyridin-4-ylethyl)-1H-indole (667 mg, 3 mmol, synthesis cf. WO2008009415, indole unit Ind-14) together with 4-butyl-4-(dimethylamino)cyclohexanone (592 mg, 3 mmol, synthesis cf. WO2008009415, ketone unit Ket-4) was dissolved in dichloromethane (45 ml) and mixed with trifluoromethane sulphonic acid (0.553 ml, 6.3 mmol). The batch was stirred for 67 h at RT, and a brown oil separated out. For work up the reaction solution was mixed with 1N NaOH (10 ml) and THF (10 ml). The mixture was stirred a further 60 min. After separation of the phases the aqueous phase was extracted with dichloromethane (3×10 ml). The combined organic extracts were dried over Na2SO4 and then concentrated to low volume. The raw product obtained (1.24 g) was purified by column chromatography [silica gel 60 (100 g); ethyl acetate/methanol (10:1, 1200 ml), ethyl acetate/methanol (5:1, 600 ml) ethyl acetate/methanol (2:1, 700 ml), ethyl acetate/methanol (1:2, 750 ml), methanol (800 ml)].

reactant | 3-(2-pyridin-4-ylethyl)-1H-indole | 3 mmol, 667 mg | N1=CC=C(C=C1)CCC1=CNC2=CC=CC=C12 | C15H14N2
reactant | 4-butyl-4-(dimethylamino)cyclohexanone | 3 mmol, 592 mg | C(CCC)C1(CCC(CC1)=O)N(C)C | C12H23NO
reactant | trifluoromethane sulphonic acid | 6.3 mmol, 0.553 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 1-butyl-N,N-dimethyl-4,4-bis(3-(2-(pyridin-4-yl)ethyl)-1H-indol-2-yl)cyclohexanamine | C(CCC)C1(CCC(CC1)(C=1NC2=CC=CC=C2C1CCC1=CC=NC=C1)C=1NC2=CC=CC=C2C1CCC1=CC=NC=C1)N(C)C | C42H49N5
